US06908926B1
4,5,6,7-Tetrahydroimidazo[4,5-c]pyridine-5-carboxylic Acid 4-tert-butylbenzyl Ester Oxalate
To a solution of 4-tert-butylbenzyl alcohol (1.97 g, 12 mmol) in DCM (30 mL) was added pyridine (1.3 mL) and then a solution of 4-nitrophenyl chloroformate (1.57 g, 7.8 mmol) in DCM (20 mL). The mixture was stirred at room temperature for 1 h, concentrated under reduced pressure, and to the residue was added a mixture of of 4,5,6,7-tetrahydromidazo[4,5-c]pyridine (1.5 g, 7 mmol), methanol (3.3 mL), DMF (30 mL), and diisopropylethylamine (4.1 mL). The resulting mixture was stirred at room temperature overnight and concentrated under reduced pressure. The residue was distributed between water and ethyl acetate, phases were separated, and the organic layer was washed with water, dried (MgSO4), and filtered. A solution of oxalic acid (0.63 g) in ethyl acetate was added to the filtrate and the mixture was allowed to stand for 24 h. Filtration yielded the title compound as colorless solid.

reactant | 4-tert-butylbenzyl alcohol | 12 mmol, 1.97 g | C(C)(C)(C)C1=CC=C(CO)C=C1 | C11H16O
reactant | pyridine | 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 7.8 mmol, 1.57 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 4.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 3.3 mL | CO | CH4O
product | 4,5,6,7-Tetrahydroimidazo[4,5-c]pyridine-5-carboxylic Acid 4-tert-butylbenzyl Ester Oxalate | C(C(=O)O)(=O)O.C(C)(C)(C)C1=CC=C(COC(=O)N2CC3=C(CC2)NC=N3)C=C1 | InChI=1S/C18H23N3O2.C2H2O4/c1-18(2,3)14-6-4-13(5-7-14)11-23-17(22)21-9-8-15-16(10-21)20-12-19-15;3-1(4)2(5)6/h4-7,12H,8-11H2,1-3H3,(H,19,20);(H,3,4)(H,5,6)
